US04180669
2-(N-Methyl-1,2,3,6-tetrahydro-4-pyridyl)-5-pentyl resorcinol hydrochloride
Olivetol (22.3 g) and N-methyl-4 -piperidone (14 g) were dissolved in 50 ml acetic acid and treated with HCl gas as described in Example VI giving 30.6 g (79%) product, m.p. 179°-180°.

reactant | Olivetol | 22.3 g | C1(=CC(O)=CC(CCCCC)=C1)O | C11H16O2
reactant | N-methyl-4 -piperidone | 14 g | CN1CCC(CC1)=O | C6H11NO
reactant | HCl | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(N-Methyl-1,2,3,6-tetrahydro-4-pyridyl)-5-pentyl resorcinol hydrochloride | 30.6 g, 79% | Cl.CN1CCC(=CC1)C1=C(O)C=C(C=C1O)CCCCC | InChI=1S/C17H25NO2.ClH/c1-3-4-5-6-13-11-15(19)17(16(20)12-13)14-7-9-18(2)10-8-14;/h7,11-12,19-20H,3-6,8-10H2,1-2H3;1H
